US04014869
The phosphonium salt used for this preparation was made as follows:- a solution of triphenylphosphine (39.3g) and 4-chloromethylbenzonitrile (22.7g) in toluene (400 ml) was heated under reflux for 53 hr. After cooling, the solid was collected, washed with toluene and dried to give 4-cyanobenzyltriphenylphosphonium chloride (35.4g), νmax (nujol) 2230 (CN) and 1436 cm.-1 (PPH3), τ (d6 -DMSO; 60 MHz) values include 2.0-2.5 (aromatic protons), 4.47 (CH2).

reactant | phosphonium | [PH4+]
reactant | triphenylphosphine | 39.3g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-chloromethylbenzonitrile | 22.7g | ClCC1=CC=C(C#N)C=C1 | C8H6ClN
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | 4-cyanobenzyltriphenylphosphonium chloride | 35.4g | [Cl-].C(#N)C1=CC=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 | InChI=1S/C26H21NP.ClH/c27-20-22-16-18-23(19-17-22)21-28(24-10-4-1-5-11-24,25-12-6-2-7-13-25)26-14-8-3-9-15-26;/h1-19H,21H2;1H/q+1;/p-1
